US08097617B2
Step 14.3: 7-(tert-Butoxycarbonylamino-methyl)-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid.
To a suspension of 7-(tert-butoxycarbonylamino-methyl)-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester (1.39 g, 2.99 mmol) in MeOH (24 mL) and water (12 mL) was added LiOH.H2O (377 mg, 8.98 mmol) in one portion. The slurry was stirred at RT for 14 h then the clear solution was acidified to pH 5 by the addition of 2.0 M HCl in water. The resulting precipitate was filtered, the solid washed with water and dried under vacuum to yield the title compound (1.25 g, 2.76 mmol, 92%) as a colorless solid, which was used in the next step without further purification. MS: 436 [M+1]+; HPLC: AtRet=1.76.

reactant | 7-(tert-butoxycarbonylamino-methyl)-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester | 2.99 mmol, 1.39 g | C(C)OC(=O)C1=CN=C2N1C=C(C(=C2)CNC(=O)OC(C)(C)C)C2=C(C=C(C=C2)Cl)Cl | C22H23Cl2N3O4
reactant | LiOH.H2O | 8.98 mmol, 377 mg | O[Li].O
reactant | HCl | 2.0 M | Cl | ClH
solvent | MeOH | 24 mL | CO | CH4O
solvent | water | 12 mL | O | H2O
product | 7-(tert-Butoxycarbonylamino-methyl)-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid | 2.76 mmol, 1.25 g, 92% | C(C)(C)(C)OC(=O)NCC1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=CN2)C(=O)O | C20H19Cl2N3O4
